US08865707B2
To a stirred solution of methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (78.5 mg; 0.159 mmol) and (4S,6S)-6-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazinan-2-one (43.4 mg; 0-133 mmol) in DMF (1 mL) was added potassium tert-butoxide (14.9 mg; 0.133 mmol). The reaction was stirred at room temperature for 2 h, quenched with sat. NH4Cl, and partitioned between EtOAc (10 mL) and sat. NH4Cl (10 mL). The aqueous layer was extracted with EtOAc (4×25 mL) and the combined extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash silica gel chromatography (0-100% EtOAc/hexanes gradient) to afford methyl 2″-({(4S,6S)-6-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazinan-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate as a colorless glass. LCMS=740.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, mixture of atropisomers) δ 7.89-7.82 (m, 3H), 7.71-7.66 (m, 2H), 7.59 (s, 1H), 7.43 (d, J=8.5 Hz, 1H), 7.41-7.38 (m, 1H), 7.30 (d, J=8 Hz, 1H), 7.22 (d, J=2.2 Hz, 1H), 7.16 (d, J=8 Hz, 1H) 7.11-7.07 (m, 1H), 5.38 (d, J=15.6 Hz, 1H), 4.65 (d, J=11.5 Hz, 1H), 4.32 (d, J=15.8 Hz, 1H), 3.93 (s, 3H), 3.92 (s, 3H), 3.30-3.25 (m, 1H), 2.34 (s, 3H), 2.17-2.12 (m, 1H), 1.73-1.65 (m, 1H), 1.08 (d, J=6.2 Hz, 3).

reactant | methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.159 mmol, 78.5 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C | C24H20BrF3O3
reactant | (4S,6S)-6-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazinan-2-one | 0-133 mmol, 43.4 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1C[C@@H](NC(O1)=O)C)(F)F | C13H11F6NO2
reactant | potassium tert-butoxide | 0.133 mmol, 14.9 mg | CC(C)([O-])C.[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | methyl 2″-({(4S,6S)-6-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazinan-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1C[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C)C)(F)F | C37H30F9NO5
